US07531545B2
A solution of 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide (0.37 g, 0.6 mmol) and BrCN (3M in CH2Cl2, 0.25 mL) in EtOH (20 mL) was stirred at room temperature overnight. The EtOH was evaporated to yield an oil, which was purified by Gilson HPLC to yield 4-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide as a white solid, as its corresponding TFA salt.

reactant | 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide | 0.6 mmol, 0.37 g | NC=1C(=CC(=NC1)OC1=CC=CC=C1)CN[C@@H](CCC(=O)N[C@@H](C(=O)N1CCOCC1)COC(C)(C)C)C1CCCCC1 | C33H49N5O5
reactant | BrCN | 3M, 0.25 mL | BrC#N | CBrN
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-N-(1-(R)-tert-butoxymethyl-2-morpholin-4-yl-2-oxo-ethyl)-4-(S)-cyclohexyl-butyramide | NC=1N(CC2=C(N1)C=NC(=C2)OC2=CC=CC=C2)[C@@H](CCC(=O)N[C@@H](C(=O)N2CCOCC2)COC(C)(C)C)C2CCCCC2 | C34H48N6O5
